US08372842B2
Cyclopropylzinc(II) bromide (2.5 mL, 2.49 mmol) was added to a solution of tert-butyl 4-(5-bromo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (500 mg, 0.995 mmol) and Pd(PPh3)4 (86 mg, 0.075 mmol) in THF (5 mL) under N2. The reaction mixture was heated at 75° C. (oil bath) under N2 atmosphere for 18 hours. The reaction mixture was then allowed to cool to room temperature and poured into saturated aqueous NH4Cl (50 mL) solution and extracted with EtOAc (3×50 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated in vacuo. The residue obtained was purified by C-18 reverse phase chromatography (Biotage 25M+) on Biotage SP4 unit using a 15-90% CH3CN/water gradient (14 CV). The fractions containing the product were pooled, and the solvents were removed. The residue was evaporated from CH3CN (3×20 mL) and dried to provide tert-butyl 4-(5-cyclopropyl-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (275 mg, 60% yield) as a solid. LCMS (APCI+) m/z 464.2 (M+H)+, Rt=4.32 minutes.

reactant | Cyclopropylzinc(II) bromide | 2.49 mmol, 2.5 mL | [Br-].C1(CC1)[Zn+]
reactant | tert-butyl 4-(5-bromo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.995 mmol, 500 mg | BrC=1C(=C2C(=NC1)N(N=C2)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C23H28BrN5O3
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.075 mmol, 86 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(5-cyclopropyl-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 275 mg, 60% yield | C1(CC1)C=1C(=C2C(=NC1)N(N=C2)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C26H33N5O3
